US05015640
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and N-(2-hydroxyethyl)pyrrolidine, there is obtained 2-pyrrolidino-ethyl 5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate as a resin, mass spectrum m/e: M+ 335 (1), 238 (6), 194 (12), 179 (22), 165 (22), 97 (100), 84 (39), 69 (56);

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | N-(2-hydroxyethyl)pyrrolidine | OCCN1CCCC1 | C6H13NO
product | 2-pyrrolidino-ethyl 5,7-dihydro-6H-dibenz[c,e]-azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCCN3CCCC3)=N | C21H25N3O
